US07749999B2
N-(5-tert-Butyl-2-methoxy-3-trifluoromethyl-phenyl)-2-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-2-oxo-acetamide (28).
5-tert-Butyl-2-methoxy-3-trifluoromethyl-phenylamine (32 mg, 0.165 mmol) was dissolved in 2 mL DCM. [4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-oxo-acetyl chloride (0.232 mmol), prepared as described before, and DIEA (0.02 mL, 0.50 mmol) were added and the reaction was stirred on. The reaction mixture was evaporated and the residue was purified by LC/MS (10-100% AcN). Calculated mass=558. Observed mass=559

reactant | 5-tert-Butyl-2-methoxy-3-trifluoromethyl-phenylamine | 0.165 mmol, 32 mg | C(C)(C)(C)C=1C=C(C(=C(C1)N)OC)C(F)(F)F | C12H16F3NO
reactant | [4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-oxo-acetyl chloride | 0.232 mmol | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C18H18ClNO4
reactant | DIEA | 0.50 mmol, 0.02 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(5-tert-Butyl-2-methoxy-3-trifluoromethyl-phenyl)-2-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-2-oxo-acetamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C(=O)C1=CC=C(C2=CC=CC=C12)OCCN1CCOCC1)=O)OC)C(F)(F)F | C30H33F3N2O5
